US06964975B2
The ethyl 3-methyl-5-phenyl-4-isoxazole carboxylate (1.45 g) obtained in the above reaction was dissolved in ethanol (45 ml) and distilled water (15 ml), potassium hydroxide (1.3 g) was added thereto at room temperature, and the mixture was stirred under heat reflux for 1 hour. After the completion of the reaction, the mixture was concentrated to remove ethanol, distilled water was added thereto, and the mixture was acidified (pH=4) using 1%-aqueous hydrochloric acid. Extraction by liquid separation using dichloromethane and washing with a saturated saline solution were then performed. The product was dried over sodium sulfate followed by concentration and the residue was purified by silica gel column chromatography using a chloroform-methanol elution system. Thus, 3-methyl-5-phenyl-4-isoxazole carboxylic acid (215 mg, yield 16.9%), a starting compound for the Curtius reaction described in Example 1, was obtained.

reactant | ethyl 3-methyl-5-phenyl-4-isoxazole carboxylate | 1.45 g | CC1=NOC(=C1C(=O)OCC)C1=CC=CC=C1 | C13H13NO3
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 3-methyl-5-phenyl-4-isoxazole carboxylic acid | 215 mg, yield 16.9% | CC1=NOC(=C1C(=O)O)C1=CC=CC=C1 | C11H9NO3
